*|NET G 1.9661410680000001e-16
C0 G ln_24 2.108647e-17
C1 G ln_13 8.2394443481961e-19
C2 G ln_14 8.239188181109999e-19
C3 G S 7.197662865e-17
C4 G D 7.196707301999999e-17
C5 G ln_9 1.3018937444799999e-18
C6 G ln_6 1.30189645303e-18
C7 G FL_0 3.194954e-19
C8 G FL_1 4.530203e-19
C9 G FL_2 4.52512e-19
C10 G FL_3 3.171624e-19
C11 G ln_8 1.2366912121e-17
C12 G ln_7 1.2370509483e-17
C13 G FL_4 1.897664223e-19
C14 G FL_5 3.331716674e-19
C15 G FL_6 3.3308894910000003e-19
C16 G FL_7 1.897421649e-19
